US04388251
Phosphorus pentachloride (41.5 g, 0.2 mole) was added to 2-chlorobenzaldehyde (289.7 g, 2.0 mole, 97%). After the ensuing exotherm had subsided, the resulting red solution was heated to 160° C. A stream of chlorine was introduced through a sparge tube into the solution for a period of six hours. (Gas chromatography indicated 96.5% conversion.) The solution was then cooled and distilled under reduced pressure giving 325.4 grams of 2-chlorobenzoyl chloride which boiled at 135° to 140° C. at 16 millimeters of mercury. The yield of the desired product was 93% (98.5% pure).

reactant | Phosphorus pentachloride | 0.2 mole, 41.5 g | P(Cl)(Cl)(Cl)(Cl)Cl | Cl5P
reactant | 2-chlorobenzaldehyde | 2.0 mole, 289.7 g | ClC1=C(C=O)C=CC=C1 | C7H5ClO
reactant | chlorine | ClCl | Cl2
product | 2-chlorobenzoyl chloride | 325.4 grams | ClC1=C(C(=O)Cl)C=CC=C1 | C7H4Cl2O
